* Created by KLayout
*** My special header ***

* cell bitcell
* pin BL
* pin BLB
* pin VDD
* pin VSS
* pin VSS
* pin WL
.SUBCKT bitcell BL BLB VDD VSS VSS$1 WL
* device instance $1 r0 *1 -402.6,10198 PMOS
XM$1 \$2 \$1 VDD \$9 PMOS L=1u W=3.4u AS=9.52p AD=12.5p PS=12.4u PD=11.6u
* device instance $2 r0 *1 -397,10198 PMOS
XM$2 VDD \$2 \$1 \$9 PMOS L=1u W=3.4u AS=12.5p AD=9.52p PS=11.6u PD=12.4u
* device instance $3 r0 *1 -406.1,10169 NMOS
XM$3 BL WL \$2 VSS$1 NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $4 r0 *1 -393.6,10169 NMOS
XM$4 BLB WL \$1 VSS$1 NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $5 r0 *1 -402.6,10175.9 NMOS
XM$5 \$2 \$1 VSS VSS$1 NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $6 r0 *1 -397,10175.9 NMOS
XM$6 \$1 \$2 VSS VSS$1 NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
.ENDS bitcell
